US07253286B2
7-Methoxy-4-(5-(3-thiazol-2-ylureido)thiophen-2-ylsulfanyl)quinoline-6-carboxamide
4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide (66.0 mg, 0.200 mmol) and thiazol-2-ylcarbamic acid phenyl ester (66.0 mg, 0.300 mmol) were stirred in dimethylsulfoxide (1 ml) at 85° C. for 2 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=15:1), and the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, after which the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (35.0 mg, 0.077 mmol, 38%) as colorless crystals.

reactant | 4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide | 0.200 mmol, 66.0 mg | NC1=CC=C(S1)SC1=CC=NC2=CC(=C(C=C12)C(=O)N)OC | C15H13N3O2S2
reactant | thiazol-2-ylcarbamic acid phenyl ester | 0.300 mmol, 66.0 mg | C1(=CC=CC=C1)OC(NC=1SC=CN1)=O | C10H8N2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 7-Methoxy-4-(5-(3-thiazol-2-ylureido)thiophen-2-ylsulfanyl)quinoline-6-carboxamide | 0.077 mmol, 35.0 mg, 38% | COC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CC1)NC(=O)NC=1SC=CN1)C(=O)N | C19H15N5O3S3
